US06589970B2
A mixture of an 8.03M solution of methylamine in ethanol (67 mL, 537 mmol) and 50 mL of methylene chloride was added dropwise under nitrogen to a mixture of 6-methoxy-naphthalene-2-carbaldehyde (20 g, 107.4 mmol), magnesium sulfate (20 g) and 200 mL of methylene chloride. The mixture stirred at room temperature under nitrogen for 17 h. The MgSO4 was removed by filtration and the solvent was removed under reduced pressure to give (6-methoxy-naphthalen-2-ylmethylene)-methyl-amine (20.59 g, 96%) as a yellow solid, mp 109-110° C.

reactant | methylamine | CN | CH5N
reactant | ethanol | 537 mmol, 67 mL | C(C)O | C2H6O
reactant | 6-methoxy-naphthalene-2-carbaldehyde | 107.4 mmol, 20 g | COC=1C=C2C=CC(=CC2=CC1)C=O | C12H10O2
reactant | magnesium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (6-methoxy-naphthalen-2-ylmethylene)-methyl-amine | 20.59 g, 96% | COC=1C=C2C=CC(=CC2=CC1)C=NC | C13H13NO
